US04297366
16.6 g (0.0624 mol) of 2,2-dimethyl-3-(3,3,3-trifluoro-2-methoxy-prop-1-enyl)-cyclopropanecarboxylic acid ethyl ester were dissolved in 100 ml of ethanol, a solution of 2.9 g (0.073 mol) of sodium hydroxide in 75 ml of water was then added and the mixture was heated to the reflux temperature for 4 hours, while stirring. The ethanol was then distilled off under a waterpump vacuum, the residue was taken up in 300 ml of water and the aqueous mixture was extracted once with 300 ml of methylene chloride. The aqueous phase was separated off, acidified with concentrated hydrochloric acid and then extracted twice with 300 ml of methylene chloride. The organic phase was then separated off over magnesium sulphate, dried and the solvent was distilled off under a waterpump vacuum. Last residues of solvent were removed by brief incipient distillation at a bath temperature of 50° C. under 2 mbar. 9 g (60.6% of theory) of 2,2-dimethyl-3-(3,3,3-trifluoro-2-methoxy-prop-1-enyl)-cyclopropanecarboxylic acid were then obtained as a yellow viscous oil.

reactant | 2,2-dimethyl-3-(3,3,3-trifluoro-2-methoxy-prop-1-enyl)-cyclopropanecarboxylic acid ethyl ester | 0.0624 mol, 16.6 g | C(C)OC(=O)C1C(C1C=C(C(F)(F)F)OC)(C)C | C12H17F3O3
reactant | sodium hydroxide | 0.073 mol, 2.9 g | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 75 ml | O | H2O
product | 2,2-dimethyl-3-(3,3,3-trifluoro-2-methoxy-prop-1-enyl)-cyclopropanecarboxylic acid | 9 g, 60.6% | CC1(C(C1C=C(C(F)(F)F)OC)C(=O)O)C | C10H13F3O3
